US07442701B2
To a mixture of 5-chloropyridazin-3(2H)-one [ES-A-454136 (1977)] (2.32 g, 17.8 mmol) and 4-trifluoromethylphenylboronic acid (4.06 g, 21.4 mmol) in anhydrous dioxane (20 ml) was added (1,1′-bis(diphenylphosphino)ferrocene)-dichloropalladium (0.8 g, 1.09 mmol) and saturated aqueous sodium carbonate solution (18 ml). Nitrogen was bubbled through the mixture for 5 minutes and the reaction was then heated with stirring at 100° C. for 24 hours under an atmosphere of nitrogen. The mixture was allowed to cool to room temperature and poured onto a mixture of ethyl acetate/ethanol/water (300 ml/30 ml/30 ml). The phases were separated and the aqueous phase was extracted two times more with ethyl acetate. The combined organic layers were washed with brine, dried over sodium sulfate and adsorbed onto silica gel. Purification by flask column chromatography (50% ethyl acetate-iso-hexane) gave 5-[4-trifluoromethylphenyl]pyridazin-3(2H)-one (0.78 g) which was suspended in phosphorous oxychloride (5 ml, 54 mmol) and the mixture heated at 100° C. for 5 hours. After cooling to room temperature the homogeneous dark solution was evaporated under reduced pressure and repartitioned between chloroform and water (50 ml each). The pH was adjusted to 8 by portionwise addition of saturated aqueous sodium carbonate solution and the phases were separated. After two further extractions the combined organic extracts were washed with water and brine and dried over sodium sulfate. After filtration the compound was adsorbed onto silica gel and purified by flash column (50% ethyl acetate-iso-hexane) to yield the title compound (0.56 g, 12%).

reactant | 5-chloropyridazin-3(2H)-one | 17.8 mmol, 2.32 g | ClC1=CC(NN=C1)=O | C4H3ClN2O
reactant | 4-trifluoromethylphenylboronic acid | 21.4 mmol, 4.06 g | FC(C1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O2
reactant | sodium carbonate | 18 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
catalyst | (1,1′-bis(diphenylphosphino)ferrocene)-dichloropalladium | 1.09 mmol, 0.8 g | Cl[Pd]Cl.C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | 5-[4-trifluoromethylphenyl]pyridazin-3(2H)-one | 0.78 g | FC(C1=CC=C(C=C1)C1=CC(NN=C1)=O)(F)F | C11H7F3N2O
